US09029451B2
Preparation of 2-Hydroxyethyl 2,2,4-trimethyl-3-oxopentanoate
To a 2-liter round bottom flask was charged ethylene glycol (800 mL) and 2,2,4,4-tetramethyl-1,3-cyclobutanedione (185.8 g, 1.33 moles). While using good mixing, potassium carbonate (91.4 grams, 0.663 moles) was added. An exothermic reaction resulted and the batch temperature rose to approximately 65° C. The reaction was held for 1 hour between 50-60° C. The batch was then drowned into 1300 mL demineralized water and extracted with 800 mL ethyl acetate. The ethyl acetate layer was washed several times with water and dried with anhydrous sodium sulfate. The ethyl acetate was removed at 75° C. under 5 mmHg vacuum and the resulting crude product distilled through a 0.5×6 inch Penn-State packed column to provide 153 g of distilled product. The vapor boiling point was recorded as 113° C. at a pot temperature of 135° C. at <1 mmHg vacuum. The GC assay of the resulting product was 97.2%.

reactant | ethylene glycol | 800 mL | C(CO)O | C2H6O2
reactant | 2,2,4,4-tetramethyl-1,3-cyclobutanedione | 1.33 moles, 185.8 g | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
reactant | potassium carbonate | 0.663 moles, 91.4 grams | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-Hydroxyethyl 2,2,4-trimethyl-3-oxopentanoate | 153 g | CC(C(=O)OCCO)(C(C(C)C)=O)C | C10H18O4
